US07592453B2
N-((1R,2S)-2-{[(3aR,4R,9bR)-4-(2-Methyl-3-furyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexyl)benzamide
To a suspension of (1R,2S)-2-{[(3aR,4R,9bR)-4-(2-methyl-3-furyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexaneamine hydrochloride (201 mg, 0.445 mmol) in dichloromethane (5 ml) were added triethylamine (0.203 ml, 1.47 mmol) and benzoylchloride (0.0568 ml, 0.490 mmol) under ice-cooling. The reaction mixture was stirred overnight at room temperature, water was added, and extracted with dichloromethane. The extract was dried over anhydrous MgSO4, and the solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with hexane-ethyl acetate (4:1-3:2, v/v) to give the title compound (176 mg, 82%) as an amorphous form.

reactant | (1R,2S)-2-{[(3aR,4R,9bR)-4-(2-methyl-3-furyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexaneamine hydrochloride | 0.445 mmol, 201 mg | Cl.CC=1OC=CC1[C@@H]1NC=2C=CC=CC2[C@H]2[C@@H]1CCN2C(=O)[C@@H]2[C@@H](CCCC2)N
reactant | triethylamine | 1.47 mmol, 0.203 ml | C(C)N(CC)CC | C6H15N
reactant | benzoylchloride | 0.490 mmol, 0.0568 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-((1R,2S)-2-{[(3aR,4R,9bR)-4-(2-Methyl-3-furyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexyl)benzamide | 176 mg, 82% | CC=1OC=CC1[C@@H]1NC=2C=CC=CC2[C@H]2[C@@H]1CCN2C(=O)[C@@H]2[C@@H](CCCC2)NC(C2=CC=CC=C2)=O | C30H33N3O3
